US06093836
2.39 g(3.46 mmol) of 3-(2,4-dibenzyloxy-phenyl)-1-(2,5-dibenzyloxy-3,4,6-trimethyl-phenyl)-propan-1-ol was diluted with 100 ml of dry benzene and 30 mg of p-toluenesulfonic acid was added thereto. The mixture was stirred for 4 hours while refluxing to eliminate water. The solution thus produced was cooled down to room temperature and washed once(×1) with saturated aqueous sodium hydrogen carbonate solution. The washings was extracted with dichloromethane and the extract was combined with the original organic layer. Then, the combined mixture was dried, distilled under reduced pressure and subjected to a silica gel column chromatography(eluent: n-hexane/ethylacetate=10/1, v/v) to obtain 2.1 g(Yield 90%) of 4-[3-(2,5-dibenzyloxy-3,4,6-trimethylphenyl)-allyl]-1,3-dibenzyloxy-benzene. 2.1 g(3.12 mmol) of the compound thus obtained was diluted with 30 ml of ethylacetate, to which was slowly added 45 mg of 10% palladium catalyst. The resulting solution was stirred for 72 hours under hydrogen atmosphere of 60 psi, diluted with 50 ml of ethylacetate and then filtered. The filtrate was distilled under reduced pressure and subjected to a silical gel column chromatography(eluent: n-hexane/ethylacetate=1/1, v/v) to obtain 0.74 g (Yield 79%) of the title compound.

reactant | 3-(2,4-dibenzyloxy-phenyl)-1-(2,5-dibenzyloxy-3,4,6-trimethyl-phenyl)-propan-1-ol | 3.46 mmol, 2.39 g | C(C1=CC=CC=C1)OC1=C(C=CC(=C1)OCC1=CC=CC=C1)CCC(O)C1=C(C(=C(C(=C1C)OCC1=CC=CC=C1)C)C)OCC1=CC=CC=C1 | C46H46O5
reactant | p-toluenesulfonic acid | 30 mg | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | water | O | H2O
reactant | n-hexane ethylacetate | CCCCCC.C(C)OC(C)=O
solvent | benzene | 100 ml | C1=CC=CC=C1 | C6H6
product | 4-[3-(2,5-dibenzyloxy-3,4,6-trimethylphenyl)-allyl]-1,3-dibenzyloxy-benzene | 2.1 g, Yield 90% | C(C1=CC=CC=C1)OC1=C(C(=C(C(=C1C)C)OCC1=CC=CC=C1)C)C=CCC1=C(C=C(C=C1)OCC1=CC=CC=C1)OCC1=CC=CC=C1 | C46H44O4
